US06875765B2
3-(4-Acetylamino-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester (0.40 g, 0.9 mmol) was combined with 2-Quinolin-5-yl-ethanol (0.155 g, 0.9 mmol) and triphenyl phosphine (355 mg, 1.3 mmol) in 15 mL THF. The solution was cooled to 0° C. DEAD (0.21 mL, 1.3 mmol) was added. The reaction was slowly warmed to room temperature, and stirred overnight. The reaction mixture was concentrated in vacuo. The crude product was chromatorgraphed using 1:1 ethyl acetate/hexanes followed by ethyl acetate, and then 10% methanol in ethyl acetate to yield 3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester 450 mg (83%) of an off-white solid. MS (APCI) m/z 601.2 (M+1).

reactant | 3-(4-Acetylamino-2-hydroxy-benzenesulfonylamino)-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.9 mmol, 0.40 g | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)O)=O | C18H27N3O8S
reactant | 2-Quinolin-5-yl-ethanol | 0.9 mmol, 0.155 g | N1=CC=CC2=C(C=CC=C12)CCO | C11H11NO
reactant | triphenyl phosphine | 1.3 mmol, 355 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.3 mmol, 0.21 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-[4-acetylamino-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 450 mg, 83% | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)NC(C)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C29H36N4O8S
